US05026856
10-(4-nitro-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl- 7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid
185 mg of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid, 176 mg of 4-nitroisoindoline hydrobromide, 164 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 131 mg of the target compound.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 185 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 4-nitroisoindoline hydrobromide | 176 mg | Br.[N+](=O)([O-])C1=C2CNCC2=CC=C1
reactant | DBU | 164 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 10-(4-nitro-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl- 7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 131 mg | [N+](=O)([O-])C1=C2CN(CC2=CC=C1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C21H16FN3O6
